US04147780
Hypophosphorous acid (100%, 15.8 parts) dissolved in absolute ethanol was added to a stirred solution of 41.3 parts isobutylidenebenzhydrylamine in absolute ethanol. An exothermic reaction occurred. After standing one hour the reaction was filtered and the white solid dried in vacuo. There was obtained DL-1-benzhydrylamino-2-methylpropanephosphonous acid, melting point 191° (dec.).

reactant | Hypophosphorous acid | [PH2](=O)O | H3O2P
reactant | isobutylidenebenzhydrylamine | C(C(C)C)=NC(C1=CC=CC=C1)C1=CC=CC=C1 | C17H19N
solvent | ethanol | C(C)O | C2H6O
product | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
